US06500837B2
3. 5-Ethoxycarbonylmethyl-2-methyl-1H-indole-3-carboxylic acid ethyl ester
To a solution of 3-(4-ethoxycarbonylmethyl-2-iodo-phenylamino)but-2-enoic acid ethyl ester (12.5 g, 30 mmol) in DMF (30 mL), tripropylamine (4.3 g, 30 mmol), and Pd(II)acetate (0.33 g, 1.5 mmol) are added, and the reaction mixture is heated at 120° C. for 1 hour. After cooling to room temperature, ethyl acetate (150 mL) is added. The organic layer is washed with water (2×100 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The crude material is recrystallized from hexane/ethyl acetate to give a yellow-orange solid (3.3 g, 38%). MS: 290 (M+1)+.

reactant | 3-(4-ethoxycarbonylmethyl-2-iodo-phenylamino)but-2-enoic acid ethyl ester | 30 mmol, 12.5 g | C(C)OC(C=C(C)NC1=C(C=C(C=C1)CC(=O)OCC)I)=O | C16H20INO4
reactant | tripropylamine | 30 mmol, 4.3 g | C(CC)N(CCC)CCC | C9H21N
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-Ethoxycarbonylmethyl-2-methyl-1H-indole-3-carboxylic acid ethyl ester | 3.3 g, 38% | C(C)OC(=O)C1=C(NC2=CC=C(C=C12)CC(=O)OCC)C | C16H19NO4
